US06069149
2.97 g (6.93 mmol) of (3-dimethylaminopropyl) triphenylphophonium bromide was dissolved in 25 ml of tetrahydrofuran and 4.77 ml (7.63 mmol) of 1.6 M n-butyl lithium was added dropwise thereto under cooling in a dry ice-acetone bath. The mixture was stirred for 30 minutes under ice-cooling. A solution of 1.67 g (6.93 mmol) of methyl p-benzoylbenzoate in 15 ml of tetrahydrofuran was added thereto and the mixture was stirred for 30 minutes. Returning to room temperature, it was stirred for one hour. After brine was added, the reaction mixture was extracted twice with ethyl acetate, the extract was washed with brine, and dried (Na2SO4). The solvent was distilled off and the residue was purified by silica gel column chromatography (chloroform:methanol=100:1 to 15:1 (v/v)) to obtain 1.59 g (5.14 mmol) of methyl 4-(4-dimethylamino-1-phenyl-1-butenyl)benzoate as a pale brown oily substance. Its spectroscopic data are as follows:

reactant | (3-dimethylaminopropyl) triphenylphophonium bromide | 6.93 mmol, 2.97 g | [Br-].CN(CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | n-butyl lithium | 7.63 mmol, 1.6 M, 4.77 ml | C(CCC)[Li]
reactant | methyl p-benzoylbenzoate | 6.93 mmol, 1.67 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)OC)C=C1 | C15H12O3
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | methyl 4-(4-dimethylamino-1-phenyl-1-butenyl)benzoate | 5.14 mmol, 1.59 g | CN(CCC=C(C1=CC=CC=C1)C1=CC=C(C(=O)OC)C=C1)C | C20H23NO2
